US06291475B1
(a) 4-(2-Oxiranyl)benzonitrile
NaBH4 (1.6 g; 40 mmol) was added to a stirred solution of 4-cyanophenacyl bromide (8.8 g; 40 mmol) in THF (100 mL), and the reaction mixture was stirred until tic indicated that the reaction was complete. The solvent was evaporated and the residue partitioned between DCM and H2O, and the organic layer was separated, dried and concentrated. The residue was treated with K2CO3 (0.08 mol) in MeCN (85 mL) at room temperature overnight. The solvent was removed on a rotary evaporator and the residue partitioned between CH2Cl2 and H2O. The organic layer was washed with H2O (2×100 mL), separated and dried to give the sub-title compound in 90% overall yield.

reactant | NaBH4 | 40 mmol, 1.6 g | [BH4-].[Na+]
reactant | 4-cyanophenacyl bromide | 40 mmol, 8.8 g | C(#N)C1=CC=C(C(CBr)=O)C=C1 | C9H6BrNO
reactant | K2CO3 | 0.08 mol | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | MeCN | 85 mL | CC#N | C2H3N
product | 4-(2-Oxiranyl)benzonitrile | O1C(C1)C1=CC=C(C#N)C=C1 | C9H7NO
